US08383639B2
2-Amino-3-(4-fluorophenyl)propanenitrile hydrochloride.
To a solution of 2-(diphenylmethyleneamino)-3-(4-fluorophenyl)propanenitrile (1.65 g, 5.02 mmol, 1.0 equiv) in THF (20.1 mL) was added HCl (5.53 mL of a 1 M aqueous solution, 5.53 mmol, 1.1 equiv). After stirring 3 h, the reaction was poured into water and washed with ether (×3). The aqueous layer was neutralized by the addition of 10 M NaOH and extracted with CH2Cl2 (×3). The combined CH2Cl2 extracts were dried (Na2SO4) and then concentrated in vacuo to provide the title compound (0.77 g, 93% yield) as a colorless oil. For convenience, the amine could be converted into the hydrochloride salt by dissolution in ether, treating with 2 M HCl in ether, and filtering the resulting white solid: 1H NMR (400 MHz, CDCl3) δ ppm 7.24-7.29 (m, 2H), 7.01-7.08 (m, 2H), 3.85-3.96 (m, 1H), 2.92-3.07 (m, 2H), 1.60 (d, J=7.55 Hz, 2H).

reactant | 2-(diphenylmethyleneamino)-3-(4-fluorophenyl)propanenitrile | 5.02 mmol, 1.65 g, 1.0 equiv | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C#N)CC1=CC=C(C=C1)F | C22H17FN2
reactant | HCl | Cl | ClH
reactant | water | O | H2O
solvent | THF | 20.1 mL | C1CCOC1 | C4H8O
product | 2-Amino-3-(4-fluorophenyl)propanenitrile hydrochloride | 0.77 g, 93% yield | Cl.NC(C#N)CC1=CC=C(C=C1)F | InChI=1S/C9H9FN2.ClH/c10-8-3-1-7(2-4-8)5-9(12)6-11;/h1-4,9H,5,12H2;1H
